US03947445
Cis-5-(N-methylcarbamyl)-1-benzylpyrrolidine-2-carboxylic acid
Cis-N-benzylpyrrolidine-2,5-dicarboxylic acid (41.3 g, 0.166 mole) and acetic anhydride (206.5 ml) were heated carefully together to 100°C; the solid gradually dissolved, and the mixture assumed a dark brown color. In typical experiments, solution was complete in 10-30 minutes, depending on the state of subdivision of the starting material. Heating time was minimized. Just before the last solid dissolved, the excess acetic anhydride was removed in vacuo, and the brown oily residue of crude cis-N-benzylpyrrolidine-2,5-dicarboxylic acid anhydride was taken up in 400 ml benzene. Anhydrous methylamine (0.33 mole as 9.9% solution in benzene) was added in two portions, and the mixture was heated on the steam bath for 45 minutes. After cooling, the crude cis-5-(N-methylcarbamyl)-1-benzylpyrrolidine-2-carboxylic acid (35.8 g) was collected by filtration, washed with benzene and recrystallized from ethanol. Yield: 31.4 g (72%), melting point 190°-192°C.

reactant | Cis-N-benzylpyrrolidine-2,5-dicarboxylic acid | 0.166 mole, 41.3 g | C(C1=CC=CC=C1)N1[C@H](CC[C@H]1C(=O)O)C(=O)O | C13H15NO4
reactant | acetic anhydride | 206.5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | methylamine | 0.33 mole | CN | CH5N
product | Cis-5-(N-methylcarbamyl)-1-benzylpyrrolidine-2-carboxylic acid | CNC(=O)[C@@H]1CC[C@@H](N1CC1=CC=CC=C1)C(=O)O | C14H18N2O3
